US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 51 using (S)-4-amino-6-chlorothiochromane-7-carboxylic acid methyl ester (1.00 g), potassium carbonate (643 mg) and di-tert-butyldicarbonate (1.18 g), the objective (S)-4-(tert-butoxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid methyl ester (1.18 g) was obtained as colorless crystals.

reactant | (S)-4-amino-6-chlorothiochromane-7-carboxylic acid methyl ester | 1.00 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)N)Cl | C11H12ClNO2S
reactant | potassium carbonate | 643 mg | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyldicarbonate | 1.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (S)-4-(tert-butoxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid methyl ester | 1.18 g | COC(=O)C1=C(C=C2[C@H](CCSC2=C1)NC(=O)OC(C)(C)C)Cl | C16H20ClNO4S
